US04914015
Preparation of 5phenoxy-1,2,3,4-thiatriazole
Phenyl chlorothionoformate (3.44 grams, 0.02 mole) was dissolved in 5 ml of dry acetone. Sodium azide (1.4 grams, 0.22 mole) was dissolved in 12 ml of deionized water with 8 ml of acetone and slowly added to the phenyl chlorothionoformate solution over a 5 minute period. The reaction was kept at 5° C. in an ice bath and stirred an additional 45 minutes before adding 12 ml of water. The solution was filtered to collect the product; m.p. 35°-36° C.

reactant | Phenyl chlorothionoformate | 0.02 mole, 3.44 grams | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
reactant | Sodium azide | 0.22 mole, 1.4 grams | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 12 ml | O | H2O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | water | 12 ml | O | H2O
product | 5phenoxy-1,2,3,4-thiatriazole | O(C1=CC=CC=C1)C1=NN=NS1 | C7H5N3OS
